US07371869B2
To a solution of 2-[(S)-2-[(R)-4-(4-methoxy-phenyl)-2,5-dioxo-imidazolidin-1-yl]-3-(4-nitro-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester (53.9 mg, 0.1 mmol) in tetrahydrofuran (10 mL) was added sodium acetate (60 mg, 0.44 mmol), 37% w/w aqueous formaldehyde solution (0.033 mL, 0.44 mmol) and 10% palladium on carbon (30 mg) and the mixture shaken under an atmosphere of hydrogen at 50 psi pressure in a Parr apparatus for 72 hours. The reaction mixture was filtered through a pad of Celite® and washed through with additional tetrahydrofuran. The filtrate was concentrated in vacuo, the residue was dissolved in dichloromethane, washed with water, saturated aqueous sodium bicarbonate, dried with sodium sulfate and concentrated in vacuo to give the crude product as a yellow solid. Purification by reverse phase HPLC using a C18 stationary phase gradient eluted from 10% up to 90% acetonitrile in water gave 2-(S)-3-(4-dimethylamino-phenyl)-2-[(R)-4-(4-methoxy-phenyl)-2,5-dioxo-imidazolidin-1-yl]-propionylamino}-thiazole-4-carboxylic acid methyl ester as a colorless solid (12 mg, 22%).

reactant | 2-[(S)-2-[(R)-4-(4-methoxy-phenyl)-2,5-dioxo-imidazolidin-1-yl]-3-(4-nitro-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester | 0.1 mmol, 53.9 mg | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])N1C(N[C@@H](C1=O)C1=CC=C(C=C1)OC)=O)=O | C24H21N5O8S
reactant | sodium acetate | 0.44 mmol, 60 mg | C(C)(=O)[O-].[Na+]
reactant | formaldehyde | 0.44 mmol, 0.033 mL | C=O | CH2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
product | thiazole-4-carboxylic acid methyl ester | 12 mg, 22% | COC(=O)C=1N=CSC1 | C5H5NO2S
